US05665718
0.66 g (1.9 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one was dissolved in 20 ml of N,N-dimethylformamide. A weak stream of ethylamine gas was introduced at room temperature, the reaction temperature rising to 36°. After stirring at room temperature for 16 hrs. the solution obtained was completely freed from the solvents. The residue was chromatographed over silica gel with methylene chloride/methanol 19:1 as the eluent. After concentration there was obtained a beige foam which was taken up in ether. There was obtained 0.40 g (59%) of 3-(5-ethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as beige crystals; m.p. 166°-168°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.9 mmol, 0.66 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H11ClFN5O2
reactant | ethylamine | C(C)N | C2H7N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-(5-ethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.40 g, 59% | C(C)NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C17H17FN6O2
